US04304735
To a mixture of 332 grams (2.0 moles) of 4-(tert-butyl)thiophenol and 800 ml of carbon tetrachloride was slowly added with stirring and cooling a solution of 150 grams (2.0+ moles) of chlorine in 600 ml of carbon tetrachloride at 0° C. After chlorine addition was complete the mixture was stirred at 0°-10° C. for two hours, hydrogen chloride and carbon tetrachloride removed in vacuo and the residue was distilled in a one-foot packed column to give 378 grams of 4-(tert-butyl)phenylsulfenyl chloride, b.p. 95°-97°/1.0 mm (yield 94%).

reactant | 4-(tert-butyl)thiophenol | 2.0 moles, 332 grams | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | chlorine | 150 grams | ClCl | Cl2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(tert-butyl)phenylsulfenyl chloride | 378 grams, yield 94% | C(C)(C)(C)C1=CC=C(C=C1)SCl | C10H13ClS
